US06610723B2
{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-yl}-ethyl-amine Hydrochloride (1:2)
N-{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-acetamide (0.30 g, 0.86 mmol) was treated with 1M BH3 THF complex (1.6 ml) and refluxed for 2 h. The mixture was cooled to 5° C. and MeOH (5 ml) was added slowly. After evaporation of all volatiles the residue was taken up in 2N HCl solution (3 ml) and refluxed for 20 min. The mixture was cooled and 2N NaOH solution (3 ml) was added. After extraction with AcOEt (50 ml), the organic phase was dried (Na2SO4) and evaporated to dryness. Purification by chromatography [silica, elution with gradient CH2Cl2 to 50% (CH2Cl2/MeOH/aq. NH4OH=90:10:1)] gave the free base of the title compound. After treatment with a solution of HCl in MeOH followed by addition of Et2O the title compound was isolated as an off-white crystalline material (0.062 g, 22%). Mp.>250° C. (MeOH/Et2O), MS: m/e=336 (M+H′).

reactant | N-{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-acetamide | 0.86 mmol, 0.30 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)NC(C)=O | C15H13Cl2N5O
solvent | MeOH | 5 ml | CO | CH4O
product | {1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-yl}-ethyl-amine Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)NCC | InChI=1S/C15H15Cl2N5.ClH/c1-2-18-15-19-5-6-21(15)8-11-9-22(10-20-11)12-3-4-13(16)14(17)7-12;/h3-7,9-10H,2,8H2,1H3,(H,18,19);1H
